US04795748
S-Phenyl 4-(chlorothiocarbonyloxy)thiobenzoate
A solution of sodium hydroxide (1.55 g) in 150 ml of water was added dropwise with vigorous stirring to a solution of 8.8 g of S-phenyl 4-(hydroxy)thiobenzoate and 3.70 ml of thiophosgene in 250 ml of chloroform, the temperature being kept below 10° C. The mixture was stirred at room temperature for 2 hours and the organic layer separated. The organic layer was washed successively with water and brine, dried over calcium chloride, and evaporated to dryness in vacuo to give 11.57 g of the title compound.

reactant | sodium hydroxide | 1.55 g | [OH-].[Na+]
reactant | S-phenyl 4-(hydroxy)thiobenzoate | 8.8 g | OC1=CC=C(C(=O)SC2=CC=CC=C2)C=C1 | C13H10O2S
reactant | thiophosgene | 3.70 ml | C(=S)(Cl)Cl | CCl2S
solvent | water | 150 ml | O | H2O
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | S-Phenyl 4-(chlorothiocarbonyloxy)thiobenzoate | 11.57 g | ClC(=S)OC1=CC=C(C(=O)SC2=CC=CC=C2)C=C1 | C14H9ClO2S2
